US07342032B2
5-Ethyl-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate (1.65 gram, 4.0 mmol) is dissolved in anhydrous THF (25 mL) and aniline (0.37 mL, 4.0 mmol) is added. The resulting solution is cooled to 0° C. and sodium hexamethyidisilazide (4.4 mL of a 1M solution in THF) is added. The reaction mixture is stirred for 2 hours. Water is added and the mixture is extracted twice with ethyl acetate. The combined organic layer is washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is crystallised from diisopropyl ether to give 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)-N-phenyl-thiazole-2-carboxamide (1.42 g, 77% yield). Melting point: 167-168° C.

reactant | 5-Ethyl-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate | 4.0 mmol, 1.65 gram | C(C)C1(C(=NC(S1)C(=O)[O-])C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl
reactant | aniline | 4.0 mmol, 0.37 mL | NC1=CC=CC=C1 | C6H7N
reactant | sodium hexamethyidisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | Water | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)-N-phenyl-thiazole-2-carboxamide | 1.42 g, 77% yield | ClC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)NC1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C22H13Cl3N2OS
